US04186135
7-methylsulfamoyl-1,4-benzodioxane-5-carbonyl chloride
176.5 g of thionyl chloride were introduced into a balloon flask provided with a condenser. Then, in portions, 135 g of 7-methylsulfamoyl-1,4-benzodioxane-5-carboxylic acid were added under heating at 40°-45° C. The mixture was heated under reflux and then treated with 250 cm3 chloroform. The precipitate was dried off and washed with chloroform.

reactant | thionyl chloride | 176.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | 7-methylsulfamoyl-1,4-benzodioxane-5-carboxylic acid | 135 g | CNS(=O)(=O)C=1C=C(C2=C(OCCO2)C1)C(=O)O | C10H11NO6S
solvent | chloroform | 250 cm3 | C(Cl)(Cl)Cl | CHCl3
product | 7-methylsulfamoyl-1,4-benzodioxane-5-carbonyl chloride | CNS(=O)(=O)C=1C=C(C2=C(OCCO2)C1)C(=O)Cl | C10H10ClNO5S
